US05942515
Preparation of 8-sec-butyl-5-chloro-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine:
Synthesis was performed by the reaction of 5.26 g of 6-(2-chloroethyl)-5,7-dichloropyrazolo[1,5-a]pyrimidine with 4.00 g of sec-butylamine and 4.82 g of triethylamine in accordance with the synthetic process in Referential Example 9 to obtain 4.68 g (yield: 89.0%) of the intended product. White crystals.

reactant | 6-(2-chloroethyl)-5,7-dichloropyrazolo[1,5-a]pyrimidine | 5.26 g | ClCCC=1C(=NC=2N(C1Cl)N=CC2)Cl | C8H6Cl3N3
reactant | sec-butylamine | 4.00 g | C(C)(CC)N | C4H11N
solvent | triethylamine | 4.82 g | C(C)N(CC)CC | C6H15N
product | 8-sec-butyl-5-chloro-6,7-dihydro-8H-pyrrolo[3,2-e]pyrazolo[1,5-a]pyrimidine | 4.68 g, yield: 89.0% | C(C)(CC)N1CCC=2C(=NC=3N(C21)N=CC3)Cl | C12H15ClN4
